US07091227B2
1-(6-(3-(3-Tolyl)aminocarbonylaminophenyl)-2-benzothiazolyl)-3-ethylurea
Similar to the synthesis of 1-(6-(3-phenylaminocarbonylaminophenyl)-2-benzothiazolyl)-3-ethylurea, a mixture of 1-(6-(3-aminophenyl)-2-benzothiazolyl)-3-ethylurea, triethylamine, and 3-tolyl isocyanate in toluene was reacted to give the desired compound 0.023 g (26%). LC/MS 446.2 (M+1); LC retention time 3.76 min.

reactant | 1-(6-(3-phenylaminocarbonylaminophenyl)-2-benzothiazolyl)-3-ethylurea | C1(=CC=CC=C1)NC(=O)NC=1C=C(C=CC1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C23H21N5O2S
reactant | 1-(6-(3-aminophenyl)-2-benzothiazolyl)-3-ethylurea | NC=1C=C(C=CC1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C16H16N4OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-tolyl isocyanate | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(6-(3-(3-Tolyl)aminocarbonylaminophenyl)-2-benzothiazolyl)-3-ethylurea | 0.023 g, 26% | C1(=CC(=CC=C1)NC(=O)NC=1C=C(C=CC1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1)C | C24H23N5O2S
